2167-02-07 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2166-2-6**]
   --Patient had a PEA arrest today, right after he went for ERCP.  We
   coded him in the ERCP suite, and he came to with CPR, epi, and 3
   pressors.  We were able to wean the pressors, and he is now intubated
   with a decent blood pressure.  Off pressors.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2167-2-6**] 05:08 PM
   Midazolam (Versed) - [**2167-2-6**] 06:50 PM
   Fentanyl - [**2167-2-6**] 06:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-7**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 65 (65 - 79) bpm
   BP: 113/98(106) {85/45(58) - 133/98(106)} mmHg
   RR: 18 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 68 Inch
           Total In:
                                                                  9,706 mL
                                                                  2,008 mL
   PO:
           TF:
   IVF:
                                                                  5,382 mL
                                                                  1,308 mL
   Blood products:
                                                                  2,874 mL
                                                                    700 mL
   Total out:
                                                                  1,762 mL
                                                                    374 mL
   Urine:
                                                                    262 mL
                                                                     74 mL
   NG:
   300 mL
   Stool:
                                                                  1,500 mL
   Drains:
   Balance:
                                                                  7,944 mL
                                                                  1,634 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 562 (562 - 562) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 31
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.34/36/163/19/-5
   Ve: 7.3 L/min
   PaO2 / FiO2: 326
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   154 K/uL
   13.2 g/dL
   99 mg/dL
   2.0 mg/dL
   19 mEq/L
   4.9 mEq/L
   47 mg/dL
   113 mEq/L
   140 mEq/L
   38.4 %
   11.7 K/uL
        [image002.jpg]
                             [**2167-2-6**]  06:00 PM
                             [**2167-2-6**]  06:03 PM
                             [**2167-2-6**]  07:50 PM
                             [**2167-2-6**]  08:00 PM
                             [**2167-2-6**]  08:49 PM
                             [**2167-2-6**]  09:59 PM
                             [**2167-2-7**]  12:40 AM
                             [**2167-2-7**]  01:33 AM
                             [**2167-2-7**]  01:50 AM
                             [**2167-2-7**]  03:55 AM
   WBC
   11.7
   Hct
   38.1
   36.0
   37.1
   35.6
   38.4
   Plt
   154
   Cr
   1.7
   2.0
   TropT
   0.90
   0.76
   TCO2
   16
   19
   17
   20
   Glucose
   250
   99
   Other labs: PT / PTT / INR:15.5/33.3/1.4, CK / CKMB /
   Troponin-T:90/7/0.76, ALT / AST:34/41, Alk Phos / T Bili:131/2.2,
   Amylase / Lipase:86/23, Fibrinogen:259 mg/dL, Lactic Acid:1.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Assessment and Plan
   ASSESSMENT AND PLAN:  83M AF on Coumadin, CMP EF 20% s/p recent ERCP
   with sphincterotomy now admitted to the [**Hospital Unit Name 4**] s/p PEA arrest.
   .
   # PEA Arrest likely [**3-10**] to hypovolemia from sphincterotomy bleed:
   Occured in setting of known GIB. Differential includes hypovolemic,
   cardiac thrombosis, PE, sepsis, hypoglycemia. Hct fell to 25 from 38
   two days ago requiring massive resuscitation and triple pressers. Pt
   now currently off pressers with ongoing melanotic stools.
   - Maintain 2 large bore IVs
   - HCT looks stable today at 38, would space out phlebotomy to q6h
   - Maintain Hct>30 given cardiac history, however transfuse for any
   signs of ongoing bleeding or hypotension.
   - Maintain MAPs>65
   - Sv02 of 97 speaks against cardiogenic shock
   - lactate peaked at 8.3 at 6:00PM yesterday, currently 1.6
   - f/u ERCP and Sugery Recs, consider IR if pt continue to bleed
   - Considered IV PPI, currently holding off
   - Holding coumadin, lasix, carvedilol and spironolactone in setting of
   PEA arrest
   .
   # Acute Metabolic Acidosis: Gap metabolic acidosis in setting of
   elevated lactate with respiratory compenstation. Now improving with
   resuscitation, mechanical ventilation and 1 amp of bicarb.
   - Gap peaked at 16 along with lactate of 8.3 now greatly improved at 9
   and 1.6 respectively.
   - trend lytes
   - Maintain MAPs >65
   # Acute Respiratory Failure: Patient intubated prior to procedure.
   Given history of EF of 20%, patient has potential for pulmonary edema.
   Currently oxygenating well on AC Tv 500 x 20. Tachypnea likely
   compensation for Acute Metabolic Acidosis (Lactic)
   - Maintain pt on AC overnight
   - Reassess CXR in AM following colloid resuscitation
   # ECG Changes: Pt with wide complex ventricular rhythm during arrest.
   Cards consulted and felt "Evidence of wide complex rhythm consistent
   with idioventricular ventricular rhythm likely secondary to metabolic
   disarray and reperfusion following resuscitation. The primary treatment
   for his rhythm is correction of his metabolic acidosis."
   - Repeat ECG when acidosis corrected
   - TTE in AM
   - f/u Cards recs in AM
   - cardiac enzymes
 troponins appear to have peaked, difficult to
   interpret given renal faillure, Ck
s look skeletal muscle in origin,
   likely [**3-10**] CPR
   .
   #. [**Last Name (un) **]: Likely secondary to hypotension following hypotensive event, pt
   still producing 15cc/hr.
   - Avoid Nephrotoxins
   - Maintain MAPs>65
   -
   # AF- Currently rate controlled despite being off B-Blocker. Also not
   on anticoagulation in setting of GIB.
   - holding carvedilol, coumadin, spironolactone
   - continue amio and dig, check dig level given ARF
   - ECG
   .
   PPX:
   -DVT ppx with pneumoboots
   .
   ACCESS: PIVs x 2, Right Femoral CVL, Left Femoral A-Line, Left Femoral
   Triple Lumen A-Line (placed mistakenly, should be d/c in AM)
   .
   CODE STATUS: Currently intubated, patients family does not wish the
   patient to receive further chest compressions or external
   defibrillations. Pt will be made DNR/DNI if extubated.
   .
   EMERGENCY CONTACT: [**Name (NI) **]
   .
   DISPOSITION: [**Hospital Unit Name 10062**] Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-2-6**] 02:16 PM
   20 Gauge - [**2167-2-6**] 02:18 PM
   Arterial Line - [**2167-2-6**] 06:42 PM
   Multi Lumen - [**2167-2-6**] 06:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2167-02-07 10:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   No further evidence for hemodynamic instability.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2167-2-6**] 05:08 PM
   Midazolam (Versed) - [**2167-2-6**] 06:50 PM
   Fentanyl - [**2167-2-6**] 06:50 PM
   Pantoprazole (Protonix) - [**2167-2-7**] 09:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-2-7**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 66 (65 - 79) bpm
   BP: 100/47(63) {85/45(58) - 133/98(106)} mmHg
   RR: 15 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 68 Inch
           Total In:
                                                                  9,706 mL
                                                                  2,077 mL
   PO:
           TF:
   IVF:
                                                                  5,382 mL
                                                                  1,377 mL
   Blood products:
                                                                  2,874 mL
                                                                    700 mL
   Total out:
                                                                  1,762 mL
                                                                    654 mL
   Urine:
                                                                    262 mL
                                                                    354 mL
   NG:
   300 mL
   Stool:
                                                                  1,500 mL
   Drains:
   Balance:
                                                                  7,944 mL
                                                                  1,423 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 622 (562 - 622) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 31
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.34/36/163/19/-5
   Ve: 7.9 L/min
   PaO2 / FiO2: 326
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   13.2 g/dL
   154 K/uL
   99 mg/dL
   2.0 mg/dL
   19 mEq/L
   4.9 mEq/L
   47 mg/dL
   113 mEq/L
   140 mEq/L
   36.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2167-2-6**]  06:03 PM
                             [**2167-2-6**]  07:50 PM
                             [**2167-2-6**]  08:00 PM
                             [**2167-2-6**]  08:49 PM
                             [**2167-2-6**]  09:59 PM
                             [**2167-2-7**]  12:40 AM
                             [**2167-2-7**]  01:33 AM
                             [**2167-2-7**]  01:50 AM
                             [**2167-2-7**]  03:55 AM
                             [**2167-2-7**]  08:08 AM
   WBC
   11.7
   Hct
   38.1
   36.0
   37.1
   35.6
   38.4
   36.9
   Plt
   154
   Cr
   1.7
   2.0
   TropT
   0.90
   0.76
   TCO2
   19
   17
   20
   Glucose
   250
   99
   Other labs: PT / PTT / INR:15.5/33.3/1.4, CK / CKMB /
   Troponin-T:90/7/0.76, ALT / AST:34/41, Alk Phos / T Bili:131/2.2,
   Amylase / Lipase:86/23, Fibrinogen:259 mg/dL, Lactic Acid:1.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 yom A-Fib (coumadin), now with GI bleed attributed to recent
   ampullary sphincterotomy --> repeat ERCP demonstrated ampulla site
   bleeding --> cauterized, complicated by PEA arrest.
   PEA CARDIA ARREST -- Most likely attributed to significant GI bleed
   (hypovolemia).  Resolved, resussitated.  No further evidence for
   hemodynamic instability.
   GI BLEED -- attributed to recent ampulla sphincterotomy (aggravated by
   coumadin use). Now  s/p repeat ERCP with cauterization.  No further
   clinical evidence for bleed.  Monitor serial exam and serial Hct.
   HYPOTENSION -- attributed to hypovolemia.  Doubt sepsis.
   FEMORAL A-LINE -- need to remove, and possible surgical repair.
   Consult Vascular Surgery to assess.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-2-6**] 02:16 PM
   20 Gauge - [**2167-2-6**] 02:18 PM
   Arterial Line - [**2167-2-6**] 06:42 PM
   Multi Lumen - [**2167-2-6**] 06:43 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-02-08 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: --De-lined, extubated, sailing
   --6PM HCT 39.1, couldnt get access for 10PM labs
   --Surgery Signed off
   24 Hour Events:
 MULTI LUMEN - STOP [**2167-2-7**] 11:02 AM
   placed during code
 MULTI LUMEN - STOP [**2167-2-7**] 01:44 PM
   placed during code, presumed arterial, not to be used and to be d/c'd
   as soon as stable
 ARTERIAL LINE - STOP [**2167-2-7**] 01:46 PM
   placed during code
 INVASIVE VENTILATION - STOP [**2167-2-7**] 02:15 PM
 TRANSTHORACIC ECHO - At [**2167-2-7**] 03:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2167-2-7**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-2-7**] 09:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-8**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 68 (65 - 74) bpm
   BP: 127/57(75) {94/48(57) - 127/66(79)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 68 Inch
             Total In:
                                                                  2,122 mL
                                                                     37 mL
   PO:
             TF:
   IVF:
                                                                  1,422 mL
                                                                     37 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,224 mL
                                                                    515 mL
   Urine:
                                                                  1,024 mL
                                                                    515 mL
   NG:
                                                                    650 mL
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                   -102 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 4,118 (448 - 4,118) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 5.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   13.8 g/dL
   99 mg/dL
   2.0 mg/dL
   19 mEq/L
   4.9 mEq/L
   47 mg/dL
   113 mEq/L
   140 mEq/L
   41.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2167-2-6**]  08:00 PM
                             [**2167-2-6**]  08:49 PM
                             [**2167-2-6**]  09:59 PM
                             [**2167-2-7**]  12:40 AM
                             [**2167-2-7**]  01:33 AM
                             [**2167-2-7**]  01:50 AM
                             [**2167-2-7**]  03:55 AM
                             [**2167-2-7**]  08:08 AM
                             [**2167-2-7**]  01:59 PM
                             [**2167-2-8**]  04:37 AM
   WBC
   11.7
   14.4
   Hct
   37.1
   35.6
   38.4
   36.9
   39.1
   41.4
   Plt
   154
   149
   Cr
   2.0
   TropT
   0.90
   0.76
   TCO2
   19
   17
   20
   Glucose
   99
   Other labs: PT / PTT / INR:15.5/33.3/1.4, CK / CKMB /
   Troponin-T:90/7/0.76, ALT / AST:34/47, Alk Phos / T Bili:111/2.2,
   Amylase / Lipase:86/23, Fibrinogen:259 mg/dL, Lactic Acid:1.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:  83M AF on Coumadin, CMP EF 20% s/p recent ERCP
   with sphincterotomy now admitted to the [**Hospital Unit Name 4**] s/p PEA arrest.
   .
   # PEA Arrest likely [**3-10**] to hypovolemia from sphincterotomy bleed:
   Occured in setting of known GIB. Differential includes hypovolemic,
   cardiac thrombosis, PE, sepsis, hypoglycemia. Hct fell to 25 from 38
   two days ago requiring massive resuscitation and triple pressers. Pt
   now currently off pressers with ongoing melanotic stools.
   - Maintain 2 large bore IVs
   - HCT looks stable today at 38, would space out phlebotomy to q6h
   - Maintain Hct>30 given cardiac history, however transfuse for any
   signs of ongoing bleeding or hypotension.
   - Maintain MAPs>65
   - Sv02 of 97 speaks against cardiogenic shock
   - lactate peaked at 8.3 at 6:00PM yesterday, currently 1.6
   - f/u ERCP and Sugery Recs, consider IR if pt continue to bleed
   - Considered IV PPI, currently holding off
   - Holding coumadin, lasix, carvedilol and spironolactone in setting of
   PEA arrest
   .
   # Acute Metabolic Acidosis: Gap metabolic acidosis in setting of
   elevated lactate with respiratory compenstation. Now improving with
   resuscitation, mechanical ventilation and 1 amp of bicarb.
   - Gap peaked at 16 along with lactate of 8.3 now greatly improved at 9
   and 1.6 respectively.
   - trend lytes
   - Maintain MAPs >65
   # Acute Respiratory Failure: Patient intubated prior to procedure.
   Given history of EF of 20%, patient has potential for pulmonary edema.
   Currently oxygenating well on AC Tv 500 x 20. Tachypnea likely
   compensation for Acute Metabolic Acidosis (Lactic)
   - Maintain pt on AC overnight
   - Reassess CXR in AM following colloid resuscitation
   # ECG Changes: Pt with wide complex ventricular rhythm during arrest.
   Cards consulted and felt "Evidence of wide complex rhythm consistent
   with idioventricular ventricular rhythm likely secondary to metabolic
   disarray and reperfusion following resuscitation. The primary treatment
   for his rhythm is correction of his metabolic acidosis."
   - Repeat ECG when acidosis corrected
   - TTE in AM
   - f/u Cards recs in AM
   - cardiac enzymes
 troponins appear to have peaked, difficult to
   interpret given renal faillure, Ck
s look skeletal muscle in origin,
   likely [**3-10**] CPR
   .
   #. [**Last Name (un) **]: Likely secondary to hypotension following hypotensive event, pt
   still producing 15cc/hr.
   - Avoid Nephrotoxins
   - Maintain MAPs>65
   -
   # AF- Currently rate controlled despite being off B-Blocker. Also not
   on anticoagulation in setting of GIB.
   - holding carvedilol, coumadin, spironolactone
   - continue amio and dig, check dig level given ARF
   - ECG
   .
   PPX:
   -DVT ppx with pneumoboots
   .
   ACCESS: PIVs x 2, Right Femoral CVL, Left Femoral A-Line, Left Femoral
   Triple Lumen A-Line (placed mistakenly, should be d/c in AM)
   .
   CODE STATUS: Currently intubated, patients family does not wish the
   patient to receive further chest compressions or external
   defibrillations. Pt will be made DNR/DNI if extubated.
   .
   EMERGENCY CONTACT: [**Name (NI) **]
   .
   DISPOSITION: [**Hospital Unit Name 10062**] Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-2-7**] 12:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2167-02-08 12:48:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Central line in femoral artery removed by Vascular Surgery service.
   Remains extubated.
   Up in chair.
   Requesting ambulation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2167-2-8**] 07:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-2-8**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 71 (65 - 82) bpm
   BP: 159/108(119) {100/48(57) - 159/108(119)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 81%
   Heart rhythm: V Paced
   Height: 68 Inch
             Total In:
                                                                  2,122 mL
                                                                    723 mL
   PO:
             480 mL
   TF:
   IVF:
                                                                  1,422 mL
                                                                    243 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,224 mL
                                                                  1,115 mL
   Urine:
                                                                  1,024 mL
                                                                  1,115 mL
   NG:
                                                                    650 mL
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                   -102 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 4,118 (4,118 - 4,118) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 81%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   13.8 g/dL
   149 K/uL
   99 mg/dL
   2.0 mg/dL
   19 mEq/L
   4.9 mEq/L
   47 mg/dL
   113 mEq/L
   140 mEq/L
   41.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2167-2-6**]  08:00 PM
                             [**2167-2-6**]  08:49 PM
                             [**2167-2-6**]  09:59 PM
                             [**2167-2-7**]  12:40 AM
                             [**2167-2-7**]  01:33 AM
                             [**2167-2-7**]  01:50 AM
                             [**2167-2-7**]  03:55 AM
                             [**2167-2-7**]  08:08 AM
                             [**2167-2-7**]  01:59 PM
                             [**2167-2-8**]  04:37 AM
   WBC
   11.7
   14.4
   Hct
   37.1
   35.6
   38.4
   36.9
   39.1
   41.4
   Plt
   154
   149
   Cr
   2.0
   TropT
   0.90
   0.76
   TCO2
   19
   17
   20
   Glucose
   99
   Other labs: PT / PTT / INR:15.5/33.3/1.4, CK / CKMB /
   Troponin-T:90/7/0.76, ALT / AST:34/47, Alk Phos / T Bili:111/2.2,
   Amylase / Lipase:86/23, Fibrinogen:259 mg/dL, Lactic Acid:1.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 yom A-Fib (coumadin), now with GI bleed attributed to recent
   ampullary sphincterotomy --> repeat ERCP demonstrated ampulla site
   bleeding --> cauterized, complicated by PEA arrest.
   PEA CARDIA ARREST -- Most likely attributed to significant GI bleed
   (hypovolemia).  Resolved, resussitated.  No further evidence for
   hemodynamic instability.  PVC occasional, chronic.
   GI BLEED -- attributed to recent ampulla sphincterotomy (aggravated by
   coumadin use). Now  s/p repeat ERCP with cauterization.  No further
   clinical evidence for bleed.  Monitor serial exam and serial Hct.
   HYPOTENSION -- attributed to hypovolemia.  Doubt sepsis.  Resolved.
   NUTRITIONAL SUPPORT
   RENAL FAILURE
 suspect ATN in context of PEA arrest.  Monitor UO, BUN,
   creatinine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-2-7**] 12:24 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill